** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/top-level/schematics/top-level.sch
.subckt top-level VIN VSS OUT VDD
*.PININFO VIN:I VSS:B OUT:O VDD:B
XC2 OUT net2 sky130_fd_pr__cap_mim_m3_1 W=6 L=6 m=4
XC3 OUT net1 sky130_fd_pr__cap_mim_m3_1 W=6 L=6 m=4
x3 VIN net3 net6 net4 net2 VSS error-amplifier
XM2 OUT net1 VIN VIN sky130_fd_pr__pfet_01v8 L=0.2 W=125 nf=128 m=4
x4 VIN net3 net2 net5 net1 VSS error-amplifier
x2 VDD net4 net5 net3 VSS bias-network
x5 OUT net6 VSS divider-feedback
.ends

* expanding   symbol:  /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sym # of pins=6
** sym_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sym
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sch
.subckt error-amplifier VIN VP VN IBIAS_5uA OUT VSS
*.PININFO IBIAS_5uA:I VN:I VP:I VIN:B VSS:B OUT:O
XM1 net2 net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.6 W=4.2 nf=4 m=1
XM2 OUT net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.6 W=4.2 nf=4 m=1
XM3 net2 VN net1 VIN sky130_fd_pr__pfet_01v8 L=0.6 W=28 nf=4 m=1
XM4 OUT VP net1 VIN sky130_fd_pr__pfet_01v8 L=0.6 W=28 nf=4 m=1
XM5 net1 IBIAS_5uA VIN VIN sky130_fd_pr__pfet_01v8 L=0.6 W=6.6 nf=4 m=1
XM6 IBIAS_5uA IBIAS_5uA VIN VIN sky130_fd_pr__pfet_01v8 L=0.6 W=6.6 nf=4 m=1
.ends


* expanding   symbol:  /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sym # of pins=5
** sym_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sym
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sch
.subckt bias-network VDD IBIAS1 IBIAS2 VREF VSS
*.PININFO VDD:B VSS:B IBIAS1:O IBIAS2:O VREF:O
XM2 VREF VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 m=2
XR1 VREF net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR2 net2 net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR3 net2 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR4 net4 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR5 net4 net5 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR6 net9 net10 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR7 net9 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR8 net7 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR9 net7 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR10 net5 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XM1 IBIAS1 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 m=2
XM3 IBIAS2 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 m=2
XR11 net10 net11 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR12 net12 net11 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR13 net12 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR14 net14 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR15 net14 net15 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR16 net19 VDD VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR17 net19 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR18 net17 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR19 net17 net16 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR20 net15 net16 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR21 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR22 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/divider-feedback/schematics/divider-feedback.sym # of
*+ pins=3
** sym_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/divider-feedback/schematics/divider-feedback.sym
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/divider-feedback/schematics/divider-feedback.sch
.subckt divider-feedback A VFB VSS
*.PININFO VSS:B A:B VFB:O
XR2 VFB net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR3 net1 net2 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR4 net2 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR5 net3 net4 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR6 net4 net5 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR7 net5 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR8 net6 net7 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR9 net7 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR10 net8 net9 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR11 net9 A VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR13 VSS net10 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR14 net10 net11 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR15 net11 net12 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR16 net12 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR17 net13 net14 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR18 net14 net15 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR19 net15 net16 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR20 net16 net17 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR21 net17 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR22 net18 VFB VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR23 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR24 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
.ends

