** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/ldo_andriansyah/schematics/ldo-top.sch
**.subckt ldo-top
x2 VIN VREF VFB VEA IN VSS error-amplifier
V7 VSS GND 0
V1 VIN VSS dc 0.9
XR6 VFB OUT VSS sky130_fd_pr__res_xhigh_po_0p69 L=69 mult=1 m=1
XR7 VSS VFB VSS sky130_fd_pr__res_xhigh_po_0p69 L=69 mult=1 m=1
XM1 OUT net1 VIN VIN sky130_fd_pr__pfet_01v8 L=0.2 W=500 nf=128 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V2 VREF VSS 0.6
I0 VEA VSS 2.5u
V3 VBIAS VSS 0.9
I1 OUT VSS 0
x1 VIN VBIAS IN VE net1 VSS error-amplifier
I2 VE VSS 2.5u
**** begin user architecture code


.control
DC V1 1.62 2 0.001
plot OUT
plot A B
plot -i(V1)
.endc



** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sym # of pins=6
** sym_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sym
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/error-amplifier.sch
.subckt error-amplifier VIN VP VN IBIAS_5uA OUT VSS
*.ipin IBIAS_5uA
*.ipin VN
*.ipin VP
*.iopin VIN
*.iopin VSS
*.opin OUT
XM1 net2 net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.6 W=4.2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 OUT net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.6 W=4.2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 VN net1 VDD sky130_fd_pr__pfet_01v8 L=0.6 W=28 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 OUT VP net1 VDD sky130_fd_pr__pfet_01v8 L=0.6 W=28 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 IBIAS_5uA VIN VIN sky130_fd_pr__pfet_01v8 L=0.6 W=6.6 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 IBIAS_5uA IBIAS_5uA VIN VIN sky130_fd_pr__pfet_01v8 L=0.6 W=6.6 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
